US05128355
A solution of 4.06 g of 2-butyl-5-hydroxymethyl-4-trifluoromethyl-1-[(2'-(triphenylmethyltetrazol-5-yl)biphenyl-4-yl)methyl]imidazole in 40 mL of 10% hydrochloric acid and 80 mL of tetrahydrofuran was stirred at 25° for 2 hours and then poured into water containing an excess of sodium hydroxide. The aqueous solution was washed with diethyl ether, adjusted to pH 3 with 10% hydrochloric acid, and then extracted with chloroform. The combined chloroform extracts were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography (elution: 10% methanol/chloroform) furnished 2.04 g of 2-butyl-5-hydroxymethyl-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-4-trifluoromethylimidazole as an amorphous solid.

reactant | 2-butyl-5-hydroxymethyl-4-trifluoromethyl-1-[(2'-(triphenylmethyltetrazol-5-yl)biphenyl-4-yl)methyl]imidazole | 4.06 g | C(CCC)C=1N(C(=C(N1)C(F)(F)F)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H37F3N6O
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 40 mL | Cl | ClH
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-butyl-5-hydroxymethyl-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-4-trifluoromethylimidazole | 2.04 g | C(CCC)C=1N(C(=C(N1)C(F)(F)F)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H23F3N6O
